US07888364B2
General procedure G was used to couple 4-(BOC-aminomethyl)-2-chloro-benzoic acid and 4-chloro-3-(pyridin-2-yl)aniline to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)-phenyl)-4-(BOC-aminomethyl)-benzamide with. The crude reaction mixture was treated to TFA and trace water for 1 h prior to concentrating to dryness to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)-phenyl)-4-(aminomethyl)-benzamide.

reactant | 4-(BOC-aminomethyl)-2-chloro-benzoic acid | C(=O)(OC(C)(C)C)C(C1=CC(=C(C(=O)O)C=C1)Cl)N | C13H16ClNO4
reactant | 4-chloro-3-(pyridin-2-yl)aniline | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)-phenyl)-4-(BOC-aminomethyl)-benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)C(N)C(=O)OC(C)(C)C | C24H23Cl2N3O3
